US07291631B2
To a solution of 2-methyl-3-trifluoromethyl-pyridine (0.850 g, 5.28 mmol) (Ashimori, A. et al. Chem. Pharm. Bull. 1990, 33, 2446-2458) in CCl4 (30 mL) was added 1,1′-azobis(cyclohexanecarbonitrile) (0.193 g, 0.79 mmol) and NBS (1.96 g, 11.0 mmol). The mixture was stirred and heated at reflux for 24 h, and then cooled to room temperature. A solution of Na2S2O3 (5 g) in H2O (100 mL) was added, and the organic layer was collected. The aqueous layer was extracted with CH2Cl2 (3×40 mL), and the extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (CH2Cl2), affording 2-bromomethyl-3-trifluoromethyl-pyridine as a pale yellow liquid (0.180 g, 14%). 1H NMR (CDCl3) δ 4.69 (s, 2H), 7.37 (dd, 1H, J=4.5, 7.8 Hz), 7.96 (d, 1H, J=7.8 Hz), 8.78 (d, 1H, J=4.5 Hz).

reactant | 2-methyl-3-trifluoromethyl-pyridine | 5.28 mmol, 0.850 g | CC1=NC=CC=C1C(F)(F)F | C7H6F3N
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | 0.79 mmol, 0.193 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
reactant | NBS | 11.0 mmol, 1.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2S2O3 | 5 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | H2O | 100 mL | O | H2O
product | 2-bromomethyl-3-trifluoromethyl-pyridine | 0.180 g, 14% | BrCC1=NC=CC=C1C(F)(F)F | C7H5BrF3N
